US07375101B2
N-[7-Chloro-2,3-dihydro-1-methyl-2-oxo-5-(3-pyridinyl)-1H-1,4-benzodiazepin-3-yl]-N′-[4-(4-morpholinyl)-1-naphthalenyl]thiourea
A solution of 7-chloro-1,3-dihydro-3-isothiocyanato-1-methyl-5-(3-pyridinyl)-2H-1,4-benzodiazepin-2-one (0.0282 g, 0.0823 mmol) and 4-(4-morpholinyl)-1-naphthalenamine (0.0188 g, 0.0823 mmol) in (CH2Cl)2 (2.5 mL) was heated at 70° C. for 24 h. The reaction was cooled and concentrated in vacuo, and the residue was purified by silica gel column chromatography (1:2 CH2Cl2:EtOAc) to provide the title compound (0.0263 g, 56%). 1H-NMR (CDCl3): δ 8.72-8.68 (m, 2H), 8.29-8.25 (m, 1H), 8.11-8.07 (m, 1H), 8.05-8.00 (m, 2H), 7.64-7.55 (m, 5H), 7.38-7.33 (m, 3H), 7.15 (d, J=8.0 Hz, 1H), 6.08 (d, J=7.6 Hz, 1H), 4.03-3.96 (br m, 4H), 3.39 (s, 3H), 3.15 (br s, 4H). HRMS calculated for (C30H27ClN6O2S+H) (M+H)+: 571.1683. Found (ESI): 571.1699. Anal. Calcd for C30H27ClN6O2S+0.7 H2O: C, 61.73; H, 4.90; N, 14.40. Found: C, 61.93;H, 4.79; N, 13.87.

reactant | 7-chloro-1,3-dihydro-3-isothiocyanato-1-methyl-5-(3-pyridinyl)-2H-1,4-benzodiazepin-2-one | 0.0823 mmol, 0.0282 g | ClC=1C=CC2=C(C(=NC(C(N2C)=O)N=C=S)C=2C=NC=CC2)C1 | C16H11ClN4OS
reactant | 4-(4-morpholinyl)-1-naphthalenamine | 0.0823 mmol, 0.0188 g | N1(CCOCC1)C1=CC=C(C2=CC=CC=C12)N | C14H16N2O
product | N-[7-Chloro-2,3-dihydro-1-methyl-2-oxo-5-(3-pyridinyl)-1H-1,4-benzodiazepin-3-yl]-N′-[4-(4-morpholinyl)-1-naphthalenyl]thiourea | 0.0263 g, 56% | ClC=1C=CC2=C(C(=NC(C(N2C)=O)NC(=S)NC2=CC=C(C3=CC=CC=C23)N2CCOCC2)C=2C=NC=CC2)C1 | C30H27ClN6O2S
